US05795887
2-{1-[Isopropyl-(4-methoxy-phenyl)-carbamoylmethyl]-2-oxo-5-phenyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-3-yl}N-phenyl-acetamide
According to Process F, a mixture of {1-[Isopropyl-(4-methoxy-phenyl)-carbamoylmethyl]-2-oxo-5-phenyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-3-yl}-acetic acid (200 mg, 0.400 mmol), prepared as in Intermediate 29, aniline (0.033 mL, 0.356 mmol), and bromo-tris-pyrrolidino-phosphonium hexafluorophosphate (167 mg, 0.356 mmol) in anhydrous DCM (3 mL) is treated with diisopropylethylamine (0.170 mL, 0.978 mmol) and stirred at ambient temperature under nitrogen. After 1.5 hrs., the solvent is removed in vacuo and the residue is purified by chromatography on flash grade silica gel using 60% ethyl acetate in n-hexane. Fractions containing the product are combined, concentrated in vacuo and triturated with n-hexane. After removing the solvent in vacuo, the product is dried overnight at ambient temperature under high vacuum to provide the title compound (123 mg, 0.214 mmol) as a white solid. The product is lyophilized from acetonitrile/water. 1H NMR (300 MHz, d6-DMSO) δ=0.86-0.96 (m, 6H); 3.14 (d, J=6.9 Hz, 2H); 3.77 (S, 3H); 4.03-6.12 (M, 2H); 4.23 (D, J=16.8 HZ, 1H); 4.59-6.73 (M, 1H); 6.97-7.08 (M, 3H); 7.15-7.32 (M, 6H); 7.36-7.66 (M, 9H); 10.15 (S, 1H). MS (FAB): [M+H]+ =575.

reactant | {1-[Isopropyl-(4-methoxy-phenyl)-carbamoylmethyl]-2-oxo-5-phenyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-3-yl}-acetic acid | 0.400 mmol, 200 mg | C(C)(C)C(N1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)CC(=O)O)=O)(C(N)=O)C2=CC=C(C=C2)OC | C29H29N3O5
reactant | aniline | 0.356 mmol, 0.033 mL | NC1=CC=CC=C1 | C6H7N
reactant | bromo-tris-pyrrolidino-phosphonium hexafluorophosphate | 0.356 mmol, 167 mg | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | diisopropylethylamine | 0.978 mmol, 0.170 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-{1-[Isopropyl-(4-methoxy-phenyl)-carbamoylmethyl]-2-oxo-5-phenyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-3-yl}N-phenyl-acetamide | 0.214 mmol, 123 mg | C(C)(C)C(N1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)CC(=O)NC2=CC=CC=C2)=O)(C(N)=O)C2=CC=C(C=C2)OC | C35H34N4O4
